US06664395B2
To a stirred solution of 29 mg of 2-bromo-2-(4-fluoro-phenyl)-1-(3-isopropyl-3H-benzotriazol-5-yl)-ethanone in 0.38 mL of N,N-dimethylformamide was added 75 mg of cesium carbonate and 24 mg of 3-amidinopyridine hydrochloride. The mixture was heated at 50° C. for 30 min. The orange-brown mixture was cooled to 22° C., transferred to a separatory funnel with water, and extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried (sodium sulfate), filtered, and the filtrate was concentrated to an orange oil. This oil was purified by flash chromatography (eluting with ethyl acetate) to give 12 mg of 6-[5-(4-fluoro-phenyl)-2-pyridin-3-yl-3H-imidazol-4-yl]-1-isopropyl-1H-benzotriazole as a white solid. LCMS m/z 399 (M+1).

reactant | 2-bromo-2-(4-fluoro-phenyl)-1-(3-isopropyl-3H-benzotriazol-5-yl)-ethanone | 29 mg | BrC(C(=O)C1=CC2=C(N=NN2C(C)C)C=C1)C1=CC=C(C=C1)F | C17H15BrFN3O
reactant | cesium carbonate | 75 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-amidinopyridine hydrochloride | 24 mg | Cl.C(N)(=N)C=1C=NC=CC1
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 0.38 mL | CN(C=O)C | C3H7NO
product | 6-[5-(4-fluoro-phenyl)-2-pyridin-3-yl-3H-imidazol-4-yl]-1-isopropyl-1H-benzotriazole | 12 mg | FC1=CC=C(C=C1)C1=C(NC(=N1)C=1C=NC=CC1)C=1C=CC2=C(N(N=N2)C(C)C)C1 | C23H19FN6
